US05169430
Preparation of N,N-dimethyl-2-chloro-5-[3,6-dihydro-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzenesulfonamide (Compound #5).
To 30 ml of dried tetrahydrofuran (THF) cooled to -5° C. was added, under nitrogen, 3.6 g of sodium hydride as a 60% dispersion mineral oil. To the stirred slurry was added a solution of 10 g of ethyl 3-amino-4,4,4-trifluoro-2-butenoate in 30 ml of THF over a period of 30 minutes. After stirring at -5° C. for 1 hour, the reaction mixture was cooled to -65° C. and a solution of N, N-dimethyl-2-chloro-5-isocyanatobenzenesulfonamide (Example A-4 above) in 30 ml of THF was added dropwise maintaining the temperature below -60° C. The mixture was stirred at -65° C. for 2 hours and allowed to warm to room temperature. After stirring for 17 hours, solvent was removed using a rotary evaporator. About 50 ml of water was added to the residue. The resulting mixture was filtered to remove a small amount of undissolved solid and the filtrate was acidified with hydrochloric acid. The resulting precipitate was filtered to give 13 g of the title compound as a beige solid, m.p. 281°-283° C.

reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | 10 g | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
reactant | N, N-dimethyl-2-chloro-5-isocyanatobenzenesulfonamide | CN(S(=O)(=O)C1=C(C=CC(=C1)N=C=O)Cl)C | C9H9ClN2O3S
solvent | THF | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-2-chloro-5-[3,6-dihydro-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzenesulfonamide | 13 g | CN(S(=O)(=O)C1=C(C=CC(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)Cl)C | C13H11ClF3N3O4S
